US06403586B1
Preparation of 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-(4-nitrobenzyl)-2H-pyridazin-3-one
Using 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one and 4-nitrobenzyl chloride as starting materials, the procedures of Example 1 were repeated likewise, whereby the title compound was obtained in a yield of 92.6%.

reactant | 4-methoxycarbonyl-6-(4-methoxyphenyl)-2H-pyridazin-3-one | COC(=O)C=1C(NN=C(C1)C1=CC=C(C=C1)OC)=O | C13H12N2O4
reactant | 4-nitrobenzyl chloride | [N+](=O)([O-])C1=CC=C(CCl)C=C1 | C7H6ClNO2
product | 4-Methoxycarbonyl-6-(4-methoxyphenyl)-2-(4-nitrobenzyl)-2H-pyridazin-3-one | yield of 92.6% | COC(=O)C=1C(N(N=C(C1)C1=CC=C(C=C1)OC)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C20H17N3O6
